US08629270B2
(4aR,7aS)-7a-(4-Fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,6-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride
Racemic 7a-(4-fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine (437 mg, 1.26 mmol) is chirally purified by SFC (Column: Chiralpak AD-H (5 u), 2.1×15 cm; eluent: 40% isopropyl alcohol (0.2% isopropylamine) in CO2; flow 70 mL/min at UV 225 nm). The second eluting isomer is dissolved in 15 mL dichloromethane and hydrogen chloride gas is bubbled through the solution for approximately 15 seconds and concentrated to give the title compound as a white solid (194 mg, 40%, >99% ee). ES/MS (m/e) 348 (M+H).

reactant | Racemic 7a-(4-fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 1.26 mmol, 437 mg | FC1=CC=C(C=C1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)N | C16H15F2N5S
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | CO2 | C(=O)=O | CO2
product | (4aR,7aS)-7a-(4-Fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,6-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride | 194 mg, 40% | Cl.FC1=CC=C(C=C1)[C@@]12N=C(SC[C@@H]1CN(C2)C2=NC=C(C=N2)F)N | InChI=1S/C16H15F2N5S.ClH/c17-12-3-1-10(2-4-12)16-9-23(15-20-5-13(18)6-21-15)7-11(16)8-24-14(19)22-16;/h1-6,11H,7-9H2,(H2,19,22);1H/t11-,16+;/m0./s1
